US04452851
To a solution of sodium 7-[2-(2-aminothiazol-4-yl)-2-benzhydryloxycarbonylmethoxyiminoacetamido]-3-methylthio-3-cephem-4-carboxylate (syn isomer) (4.0 g) in dimethylformamide (40 ml) was added a solution of pivaloyloxymethyl iodide (1.5 g) in dimethylformamide (4.5 ml) at 0° C. and the mixture was stirred for 15 minutes at the same temperature. Ethyl acetate (150 ml) and water (100 ml) were added to the reaction mixture. The separated organic layer was washed with saturated aqueous sodium bicarbonate and water, dried over magnesium sulfate and evaporated to give pivaloyloxymethyl 7-[2-(2-aminothiazol-4-yl)-2-benzhydryloxycarbonylmethoxyiminoacetamido]-3-methylthio-3-cephem-4-carboxylate (syn isomer) (3.22 g).

reactant | sodium 7-[2-(2-aminothiazol-4-yl)-2-benzhydryloxycarbonylmethoxyiminoacetamido]-3-methylthio-3-cephem-4-carboxylate | 4.0 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=S)[O-])C1=O)=NOCC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
reactant | pivaloyloxymethyl iodide | 1.5 g | C(C(C)(C)C)(=O)OCI | C6H11IO2
reactant | Ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 4.5 ml | CN(C=O)C | C3H7NO
product | pivaloyloxymethyl 7-[2-(2-aminothiazol-4-yl)-2-benzhydryloxycarbonylmethoxyiminoacetamido]-3-methylthio-3-cephem-4-carboxylate | 3.22 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=S)OCOC(C(C)(C)C)=O)C1=O)=NOCC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C34H35N5O8S3
